US09403801B2
Step 2) tert-butyl 8-((5-methyl-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.5]decane-2-carboxylate
To a suspension of tert-butyl 8-((2-chloro-5-methylpyrimidin-4-yl)amino)-2-azaspiro[4.5]decane-2-carboxylate (1.04 g, 2.73 mmol) and 1-methyl-1H-pyrazol-4-amine hydrochloride (365.4 mg, 2.73 mmol) in n-BuOH (8 mL) was added DIPEA (1.06 g, 8.20 mmol) and the reaction mixture was stirred in a sealed tube at 150° C. overnight then concentrated in vacuo. The residue was purified by silica gel column chromatography (MeOH/DCM (v/v)=1/100) to give the title compound as yellow oil (1.21 g, 100%).

reactant | tert-butyl 8-((2-chloro-5-methylpyrimidin-4-yl)amino)-2-azaspiro[4.5]decane-2-carboxylate | 2.73 mmol, 1.04 g | ClC1=NC=C(C(=N1)NC1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1)C | C19H29ClN4O2
reactant | 1-methyl-1H-pyrazol-4-amine hydrochloride | 2.73 mmol, 365.4 mg | Cl.CN1N=CC(=C1)N
reactant | DIPEA | 8.20 mmol, 1.06 g | CCN(C(C)C)C(C)C | C8H19N
solvent | n-BuOH | 8 mL | CCCCO | C4H10O
product | tert-butyl 8-((5-methyl-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.5]decane-2-carboxylate | 1.21 g, 100% | CC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C23H35N7O2
